US06610846B1
A solution of triphenylphosphine (206 mg, 0.785 mmol) in methylene chloride (4 mL) was cooled to 0° C. and then slowly treated with N-bromosuccinimide (140 mg, 0.785 mmol). The reaction mixture was stirred at 0° C. for 10 min and then treated with 3-cyclopentyl-2-(4-trifluoromethanesulfonyl-phenyl)propionic acid (250 mg, 0.710 mmol). The resulting reaction mixture was stirred at 0° C. for 10 min and then allowed to warm to 25° C. where it was stirred for 30 min. The reaction mixture was then treated with 2-amino-5-bromopyridine (271 mg, 1.57 mmol). The resulting reaction mixture was stirred at 25° C. for 15 h. The reaction mixture was then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 2/1 hexanes/ethyl acetate) afforded the pure N-(5-bromo-pyridin-2-yl)-3-cyclopentyl-2-(4-trifluoromethanesulfonyl-phenyl)-propionamide (226 mg, 63%) as a yellow foam: mp 130-132° C.; EI-HRMS m/e calcd for C20H20BrF3N2O3S (M+) 504.0330, found 504.0325.

reactant | triphenylphosphine | 0.785 mmol, 206 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.785 mmol, 140 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-cyclopentyl-2-(4-trifluoromethanesulfonyl-phenyl)propionic acid | 0.710 mmol, 250 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)S(=O)(=O)C(F)(F)F | C15H17F3O4S
reactant | 2-amino-5-bromopyridine | 1.57 mmol, 271 mg | NC1=NC=C(C=C1)Br | C5H5BrN2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | N-(5-bromo-pyridin-2-yl)-3-cyclopentyl-2-(4-trifluoromethanesulfonyl-phenyl)-propionamide | 226 mg, 63% | BrC=1C=CC(=NC1)NC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)C(F)(F)F)=O | C20H20BrF3N2O3S
